US07371869B2
To a solution of (S)-3-benzooxazol-5-yl-2-tert-butoxycarbonylamino-propionic acid ethyl ester (0.54 g, 1.61 mmol) in tetrahydrofuran (10 mL) was added water (5 mL) and lithium hydroxide monohydrate (111 mg, 2.65 mmol) and the mixture stirred at ambient temperature under argon for 1 hour. The reaction mixture was poured into water (50 mL), diluted with brine (25 mL) and extracted with ethyl acetate (3×25 mL). The combined organic extracts were washed with brine (50 mL), dried over sodium sulfate and concentrated in vacuo to give crude (S)-3-benzooxazol-5-yl-2-tert-butoxycarbonylamino-propionic acid an off white solid foam which was used without further purification (0.49 g, 99%).

reactant | (S)-3-benzooxazol-5-yl-2-tert-butoxycarbonylamino-propionic acid ethyl ester | 1.61 mmol, 0.54 g | C(C)OC([C@H](CC=1C=CC2=C(N=CO2)C1)NC(=O)OC(C)(C)C)=O | C17H22N2O5
reactant | water | 5 mL | O | H2O
reactant | lithium hydroxide monohydrate | 2.65 mmol, 111 mg | O.[OH-].[Li+]
reactant | water | 50 mL | O | H2O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | brine | 25 mL | [Cl-].[Na+].O
product | (S)-3-benzooxazol-5-yl-2-tert-butoxycarbonylamino-propionic acid | O1C=NC2=C1C=CC(=C2)C[C@@H](C(=O)O)NC(=O)OC(C)(C)C | C15H18N2O5
